US08242280B2
A mixture of (3-bromo-phenyl)-fluoro-acetic acid (436 mg, 1.9 mmol), dimethyl amine (1.9 ml, 3.7 mmol-2M solution in THF), HATU (1.1 g, 2.8 mmol), DIEA (0.7 ml, 3.7 mmol) in DMF were stirred at room temperature overnight. The reaction was diluted with ethyl acetate, washed with 1N HCl, saturated Na2HCO3, brine, dried with Na2SO4, decanted, and concentrated to dryness. Silica chromatography of the crude using a gradient of ethyl acetate and hexane afforded 2-(3-bromo-phenyl)-2-fluoro-N,N-dimethyl-acetamide (212 mg, 44% yield). 1H NMR (500 MHz, DMSO-d6) δ 2.86 (d, 6H), 6.40-6.44 (d, 1H), 7.41 (m, 1H), 7.45 (d, 1H), 7.642 (m, 2H). MS: m/z 261.1 (M+H+).

reactant | (3-bromo-phenyl)-fluoro-acetic acid | 1.9 mmol, 436 mg | BrC=1C=C(C=CC1)C(C(=O)O)F | C8H6BrFO2
reactant | dimethyl amine | 1.9 ml | CNC | C2H7N
reactant | HATU | 2.8 mmol, 1.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3.7 mmol, 0.7 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-bromo-phenyl)-2-fluoro-N,N-dimethyl-acetamide | 212 mg, 44% yield | BrC=1C=C(C=CC1)C(C(=O)N(C)C)F | C10H11BrFNO
